US05658907
N-[2-(2-chlorophenyl)ethyl]-N'-(2-pyridyl)thiourea
A solution of 1-[(2-pyridyl)thiocarbamoyl] imidazole (1.02 g, 5.0 mmol) and 2-(2-chlorophenyl)ethylamine (0.81 g, 5.0 mmol) in N,N-dimethylformamide (20 mL) was stirred at 90° C. for 24 h. The reaction was cooled to room temperature, poured into ethyl acetate, washed with water, 1N aqueous HCl, water, saturated sodium bicarbonate, and brine. The organic layer was concentrated and the resultant oil was purified by chromatography on silica gel to provide 0.21 g (14%) of the titled product as a yellow solid:

reactant | 1-[(2-pyridyl)thiocarbamoyl] imidazole | 5.0 mmol, 1.02 g | N1=C(C=CC=C1)NC(=S)N1C=NC=C1 | C9H8N4S
reactant | 2-(2-chlorophenyl)ethylamine | 5.0 mmol, 0.81 g | ClC1=C(C=CC=C1)CCN | C8H10ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[2-(2-chlorophenyl)ethyl]-N'-(2-pyridyl)thiourea | 0.21 g, 14% | ClC1=C(C=CC=C1)CCNC(=S)NC1=NC=CC=C1 | C14H14ClN3S
